US07504426B2
Benzooxazol-2-yl-(4-methyl-piperazin-1-yl)-methanone
A stirred solution of 2-aminophenol (300 mg, 2.75 mmol), methyl 2,2,2-trimethoxyacetate (902 mg, 5.50 mmol), and ytterbium triflate (170 mg, 0.28 mmol) in toluene (10 mL) was heated to reflux. After 5 h, the mixture was cooled, and the precipitate was collected and dried. The crude solid was suspended in toluene (5 mL), and N-methylpiperazine (1.5 mL, 13.7 mmol) was added followed by 2-hydroxypyridine (26 mg, 0.28 mmol). The mixture was heated to 125° C. in a sealed tube for 4 h. The resulting yellow solution was concentrated under reduced pressure, and the residue was purified on silica gel (12 g; 2% methanol/dichloromethane), yielding 320 mg (48%) of the title compound. MS (ESI): mass calculated for C13H15N3O2, 245.12; m/z found, 246.1 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.83-7.79 (m, 1H), 7.66-7.65 (m, 2H), 7.47-7.41 (m, 2H), 4.19 (t, J=5.1 Hz, 4H), 3.88 (t, J=5.1 Hz, 4H), 2.55-2.52 (m, 4H), 2.35 (s, 3H). 13C NMR (400 MHz, CDCl3): 156.1, 154.6, 149.9, 140.1, 127.1, 125.3, 121.3, 111.5, 55.3, 54.6, 46.9, 45.9, 42.8.

reactant | 2-aminophenol | 2.75 mmol, 300 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | methyl 2,2,2-trimethoxyacetate | 5.50 mmol, 902 mg | COC(C(=O)OC)(OC)OC | C6H12O5
reactant | ytterbium triflate | 0.28 mmol, 170 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | N-methylpiperazine | 13.7 mmol, 1.5 mL | CN1CCNCC1 | C5H12N2
reactant | 2-hydroxypyridine | 0.28 mmol, 26 mg | OC1=NC=CC=C1 | C5H5NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Benzooxazol-2-yl-(4-methyl-piperazin-1-yl)-methanone | 320 mg, 48% | O1C(=NC2=C1C=CC=C2)C(=O)N2CCN(CC2)C | C13H15N3O2
